US06166037
1-Benzyl-3-(SR)-(1, 2, 3, 4-tetrahydroisoquinolin-2-ylmethyl)-4-(SR)-phenylpyrrolidine
The title compound was prepared from 20 mg of 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine, 0.010 mL of 1, 2, 3, 4-tetrahydro-isoquinoline and 25 mg of sodium triacetoxyborohydride using a procedure analogous to that described in Example 9, Step B to provide 25 mg of the title compound. RF : 0.51 (50% EtOAc in hexanes). 1H NMR (300 MHz, CDCl3): δ2.51-2.78 (m, 9H), 2.94-3.00 (m, 3H), 3.40-3.69 (m, 4H), 6.91-6.94 (m, 1H ), 7.02-7.38 (m, 13H). Mass spec. (ESI): 383.2 (M+H).

reactant | 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine | 20 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)C=O | C18H19NO
reactant | 1, 2, 3, 4-tetrahydro-isoquinoline | 0.010 mL | C1NCCC2=CC=CC=C12 | C9H11N
reactant | sodium triacetoxyborohydride | 25 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Benzyl-3-(SR)-(1, 2, 3, 4-tetrahydroisoquinolin-2-ylmethyl)-4-(SR)-phenylpyrrolidine | 25 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)CN1CC2=CC=CC=C2CC1 | C27H30N2
